US08252820B2
B. Methanesulfonic acid 2-bromomethyl-5-methylphenyl ester
To a solution of methanesulfonic acid 2-hydroxymethyl-5-methylphenyl ester (864 mg, 4 mmol) in DCM (45 mL) is added CBr4 (2.0 g, 6 mmol) and PPh3 (1.57 g, 6 mmol). The mixture is stirred at RT for 6 h. The solvent is removed and the residue is purified to give the title compound as a solid.

reactant | methanesulfonic acid 2-hydroxymethyl-5-methylphenyl ester | 4 mmol, 864 mg | OCC1=C(C=C(C=C1)C)OS(=O)(=O)C | C9H12O4S
reactant | CBr4 | 6 mmol, 2.0 g | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 6 mmol, 1.57 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-bromomethyl-5-methylphenyl ester | BrCC1=C(C=C(C=C1)C)OS(=O)(=O)C | C9H11BrO3S
